US04490533
A. N-[3-(6-Dimethylaminomethyl-2-pyridyloxy)propyl]formamide
3-Aminopropanol (2.55 g, 0.034 mol) is added to a suspension of 60% sodium hydride in mineral oil (1.29 g, 0.033 mol) in dry dimethylformamide (30 ml) and the mixture is warmed to 80° C. before adding dropwise a solution of 6-dimethylaminomethyl-2-chloropyridine (5.45 g, 0.032 mol) in 30 ml of dry dimethylformamide. The reaction temperature is increased to 125° C. for 3 hours. Then the reaction is cooled, diluted with ethanol and the precipitated salts filtered. The solvents are removed under vacuum. The residue is dissolved in chloroform, washed with water, extracted into dilute hydrochloric acid and the acidic extract neutralized with sodium carbonate. The crude product is extracted into chloroform dried and evaporated (7.6 g). This residue is chromatorgrphed on silica gel (200 g) eluting with 3-8% methanol/chloroform to give 3.2 g of pure product as an oil.

reactant | 3-Aminopropanol | 0.034 mol, 2.55 g | NCCCO | C3H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | 6-dimethylaminomethyl-2-chloropyridine | 0.032 mol, 5.45 g | CN(C)CC1=CC=CC(=N1)Cl | C8H11ClN2
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | N-[3-(6-Dimethylaminomethyl-2-pyridyloxy)propyl]formamide | 3.2 g | CN(C)CC1=CC=CC(=N1)OCCCNC=O | C12H19N3O2
